US04312816
The optical purity of the acid moiety of fenvalerate A was determined as follows: Fenvalerate A was hydrogenated in ethanol using platinum oxide as a catalyst to obtain (S)-2-(4-chlorophenyl)isovaleric acid which was then converted to an acid chloride using thionyl chloride. The acid chloride was converted to the l-menthol ester with l-menthol. The ratio between the two resulting diastereomers was determined by gas chromatography, and the optical purity of the acid moiety was calculated.

reactant | fenvalerate | CC(C)C(C=1C=CC(=CC1)Cl)C(=O)OC(C#N)C=2C=CC=C(C2)OC=3C=CC=CC3 | C25H22ClNO3
solvent | ethanol | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | (S)-2-(4-chlorophenyl)isovaleric acid | ClC1=CC=C(C=C1)[C@@H](C(=O)O)C(C)C | C11H13ClO2
